US07786104B2
N-[6-(3-Azabicyclo[3.2.0]hept-3-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide
A mixture of 0.2 g (0.5 mmol) of N-[6-chloropyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide, prepared in step 3.1, of 0.0806 g (0.6 mmol) of 3-azabicyclo[3.2.0]heptane (J. Med. Chem. 1967, 10(4), 621) and of 0.0564 g (1.01 mmol) of potassium hydroxide in 0.5 ml of N-methylpyrrolidinone is heated for 90 minutes in a microwave oven regulated at 150° C. under 150 watts. The reaction mixture is subsequently poured into 20 ml of water. The mixture is extracted with three times 30 ml of ethyl acetate. The combined organic phases are washed with 30 ml of water, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting solid is subsequently purified by silica column chromatography, elution being carried out with a mixture of n-heptane and ethyl acetate. 35 mg of the expected product are thus isolated.

reactant | N-[6-chloropyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | 0.5 mmol, 0.2 g | ClC1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C21H14ClF2N3O
reactant | 3-azabicyclo[3.2.0]heptane | 0.6 mmol, 0.0806 g | C12CNCC2CC1 | C6H11N
reactant | potassium hydroxide | 1.01 mmol, 0.0564 g | [OH-].[K+]
reactant | water | 20 ml | O | H2O
solvent | N-methylpyrrolidinone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
product | N-[6-(3-Azabicyclo[3.2.0]hept-3-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | 35 mg | C12CN(CC2CC1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C27H24F2N4O
